* NGSPICE file created from vref_1v2.ext - technology: gf180mcuD

.subckt vref_1v2 IBIAS VREF VSS VDD
X0 VREF VREF a_n1464_428# VSS nfet_03v3 ad=7.125p pd=20.5u as=7.125p ps=20.5u w=9.5u l=0.28u
X1 IBIAS IBIAS VDD VDD pfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=8u
X2 a_n1464_428# VREF VSS VSS nfet_03v3 ad=5.7p pd=20.2u as=5.7p ps=20.2u w=9.5u l=8u
X3 VREF IBIAS VDD VDD pfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=8u
.ends

