.include '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/design.ngspice'
.lib '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/sm141064.ngspice' sf

* PEX produced on Sun Aug 23 05:52:43 AM CST 2026 using /home/huda/opensource-project/Microelectronic-Block-Generator/designs/notebooks/chipathon2026-D/scripts/iic-pex.sh with m=2 and s=1
* NGSPICE file created from vref_1v2.ext - technology: gf180mcuD

.option scale=5n

.subckt vref_1v2 IBIAS VREF VSS VDD
X0 VREF VREF a_n1464_428# VSS nfet_03v3 ad=0.285u pd=4.1m as=0.285u ps=4.1m w=1900 l=56
X1 IBIAS IBIAS VDD VDD pfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=1600
X2 a_n1464_428# VREF VSS VSS nfet_03v3 ad=0.228u pd=4.04m as=0.228u ps=4.04m w=1900 l=1600
X3 VREF IBIAS VDD VDD pfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=1600
C0 VDD VREF 3.27151f
C1 IBIAS VREF 0.59006f
C2 a_n1464_428# VREF 2.73817f
C3 VDD IBIAS 11.5556f
C4 VREF VSS 9.86226f
C5 IBIAS VSS 0.79225f
C6 VDD VSS 26.5518f
C7 a_n1464_428# VSS 5.25135f ; **FLOATING
.ends

Vsupply0 VDD 0 3.6
Vsupply1 VSS 0 0.0
I_BIAS IBIAS VSS 2e-05
C_LOAD VREF VSS 1p
Xdut IBIAS VREF VSS VDD vref_1v2

.temp 125
.control
op
print v(VREF) i(Vsupply0)
.endc
.end
