* NGSPICE file created from oscillator.ext - technology: gf180mcuD

.subckt oscillator OSC_OUT VSS VDD
X0 a_5656_428# a_3844_428# VSS VSS nfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=2.2u
X1 a_220_428# a_n1592_428# VDD VDD pfet_03v3 ad=2.4p pd=9.2u as=2.4p ps=9.2u w=4u l=2.2u
X2 a_5656_428# a_3844_428# VDD VDD pfet_03v3 ad=2.4p pd=9.2u as=2.4p ps=9.2u w=4u l=2.2u
X3 a_n5216_428# a_n7028_428# VDD VDD pfet_03v3 ad=2.4p pd=9.2u as=2.4p ps=9.2u w=4u l=2.2u
X4 OSC_OUT a_5656_428# VSS VSS nfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=2.2u
X5 a_n3404_428# a_n5216_428# VSS VSS nfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=2.2u
X6 a_2032_428# a_220_428# VSS VSS nfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=2.2u
X7 a_2032_428# a_220_428# VDD VDD pfet_03v3 ad=2.4p pd=9.2u as=2.4p ps=9.2u w=4u l=2.2u
X8 a_n5216_428# a_n7028_428# VSS VSS nfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=2.2u
X9 a_220_428# a_n1592_428# VSS VSS nfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=2.2u
X10 a_n1592_428# a_n3404_428# VDD VDD pfet_03v3 ad=2.4p pd=9.2u as=2.4p ps=9.2u w=4u l=2.2u
X11 a_3844_428# a_2032_428# VDD VDD pfet_03v3 ad=2.4p pd=9.2u as=2.4p ps=9.2u w=4u l=2.2u
X12 OSC_OUT a_5656_428# VDD VDD pfet_03v3 ad=2.4p pd=9.2u as=2.4p ps=9.2u w=4u l=2.2u
X13 a_n7028_428# OSC_OUT VDD VDD pfet_03v3 ad=2.28p pd=8.8u as=2.28p ps=8.8u w=3.8u l=2.2u
X14 a_n3404_428# a_n5216_428# VDD VDD pfet_03v3 ad=2.4p pd=9.2u as=2.4p ps=9.2u w=4u l=2.2u
X15 a_n7028_428# OSC_OUT VSS VSS nfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=2.2u
X16 a_3844_428# a_2032_428# VSS VSS nfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=2.2u
X17 a_n1592_428# a_n3404_428# VSS VSS nfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=2.2u
.ends

